US05854264
Step A: 4-(3-Methyl-pyrazin-2-yl)-benzaldehyde
To a 100 ml round bottomed flask with stirring bar and an argon inlet was added Pd(OAc)2 (0.036 g, 0.15 mmol), bisdiphenylphosphinoferrocene (DPPF, 0.12 g, 0.2 mmol), and 15 ml of DMF were heated to 50° for 15 minutes. Cooled the reaction to room temperature then added 2-iodo-3-methyl-pyrazine (1.2 g, 5.4 mmol)(5). (a prep from Albert Hirschberg et al. J.Org. Chem. Jun.,1961 p1907-1912) and 4-formylbenzenboronic acid (0.90 g, 6.0 mmol) and Et3N (1.05 ml, 7.5 mmol). The mixture was heated to 90° C. for 10 h. Removed solvent in vacuo, taken up with CHCl3 and washed with diluted NH4OH. The organic layer was dried (MgSO4), filtered and concentrated to yield a black oil. This material was chromatographed (silica gel, 30% EtOAc/Hexane) to afford the title product.

reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | 2-iodo-3-methyl-pyrazine | 5.4 mmol, 1.2 g | IC1=NC=CN=C1C | C5H5IN2
reactant | 4-formylbenzenboronic acid | 6.0 mmol, 0.90 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | Et3N | 7.5 mmol, 1.05 ml | CCN(CC)CC | C6H15N
catalyst | Pd(OAc)2 | 0.15 mmol, 0.036 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | bisdiphenylphosphinoferrocene | 0.2 mmol, 0.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-Methyl-pyrazin-2-yl)-benzaldehyde | CC=1C(=NC=CN1)C1=CC=C(C=O)C=C1 | C12H10N2O
